US07125901B2
To a solution of N-{4-[(Z)-2-(4-nitrophenyl)vinyl]-1,3-thiazol-2-yl}acetamide (500 mg) in acetic acid (3 ml) were added dimethylamine hydrochloride (169 mg) and paraformaldehyde (62.2 mg), and the mixture was stirred at 100° C. (bath temp.) for 2 hrs. The solvent was removed in vacuo, and the mixture was adjusted to pH=9 with saturated sodium hydrogen carbonate aqueous solution, extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The crude compound was purified by flash column chromatography over silica gel with dichloromethane/methanol (100:1)→(20:1) as an eluent to give N-{5-[(dimethylamino)methyl]-4-[(Z)-2-(4-nitrophenyl)vinyl]-1,3-thiazol-2-yl}acetamide as a yellow amorphous substance.

reactant | N-{4-[(Z)-2-(4-nitrophenyl)vinyl]-1,3-thiazol-2-yl}acetamide | 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)\C=C/C=1N=C(SC1)NC(C)=O | C13H11N3O3S
reactant | dimethylamine hydrochloride | 169 mg | Cl.CNC
reactant | paraformaldehyde | 62.2 mg | C=O | CH2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | N-{5-[(dimethylamino)methyl]-4-[(Z)-2-(4-nitrophenyl)vinyl]-1,3-thiazol-2-yl}acetamide | CN(C)CC1=C(N=C(S1)NC(C)=O)\C=C/C1=CC=C(C=C1)[N+](=O)[O-] | C16H18N4O3S
